US08378157B2
21.75 g (72 mmol) of bis(pentafluoroethyl)phosphinic acid are added dropwise at room temperature to 20.0 g (80 mmol) of phenyltetrachlorophosphorane, and the mixture is stirred for four hours. Bis(pentafluoroethyl)phosphinyl chloride is separated off by distillation at atmospheric pressure, giving 18.1 g of bis(pentafluoroethyl)phosphinyl chloride, which corresponds to a yield of 78%, based on the phosphinic acid employed.

reactant | bis(pentafluoroethyl)phosphinic acid | 72 mmol, 21.75 g | FC(C(F)(F)F)(F)P(O)(=O)C(C(F)(F)F)(F)F | C4HF10O2P
reactant | phenyltetrachlorophosphorane | 80 mmol | C1(=CC=CC=C1)P(Cl)(Cl)(Cl)Cl | C6H5Cl4P
product | bis(pentafluoroethyl)phosphinyl chloride | 18.1 g, yield of 78% | FC(C(F)(F)F)(F)P(=O)(C(C(F)(F)F)(F)F)Cl | C4ClF10OP
